US06979690B2
Step 1. 1-(6-Amino-5-chloro-2-methoxy-3-pyridinyl)-3-(1-isobutyl-4-piperidinyl)-1-propanone
The title compound was prepared according to the procedure of step 2 in the example 13 using 1-(6-amino-5-chloro-2-methoxy-3-pyridinyl)-3-(4-piperidinyl)-1-propanone and 1-iodo-2-methylpropane, instead of 1-(6-amino-2-methoxy-3-pyridinyl)-3-(4-piperidinyl)-1-propanone and 1-iodobutane.

reactant | 1-(6-amino-5-chloro-2-methoxy-3-pyridinyl)-3-(4-piperidinyl)-1-propanone | NC1=C(C=C(C(=N1)OC)C(CCC1CCNCC1)=O)Cl | C14H20ClN3O2
reactant | 1-iodo-2-methylpropane | ICC(C)C | C4H9I
reactant | 1-(6-amino-2-methoxy-3-pyridinyl)-3-(4-piperidinyl)-1-propanone | NC1=CC=C(C(=N1)OC)C(CCC1CCNCC1)=O | C14H21N3O2
reactant | 1-iodobutane | ICCCC | C4H9I
product | 1-(6-Amino-5-chloro-2-methoxy-3-pyridinyl)-3-(1-isobutyl-4-piperidinyl)-1-propanone | NC1=C(C=C(C(=N1)OC)C(CCC1CCN(CC1)CC(C)C)=O)Cl | C18H28ClN3O2
